US07183290B2
A. 1-(1,3-Benzoxazol-2-yl)piperidin-4-amine hydrochloride.
A sealed tube reactor was mixed with tert-butyl piperidin-4-ylcarbamate (1.0 g, 5.0 mmol) and 2-chlorobenzoxazole (2.3 g, 15.0 mmol). The reactor was sealed and the tube was heated while stirring at a temperature of 100° C. for 2.0 hours. The tube was cooled to RT and the resulting oily solid was dissolved in 4.0 N HCl in 1,4 dioxane (25 mL). The reaction stirred over 16.0 hours and was concentrated to dryness. The resulting solid was triturated with ether and filtered. The product was washed with ether and dried to give 1.1 g of crude solid.

reactant | tert-butyl piperidin-4-ylcarbamate | 5.0 mmol, 1.0 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 2-chlorobenzoxazole | 15.0 mmol, 2.3 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | HCl | 4.0 N | Cl | ClH
solvent | 1,4 dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 1-(1,3-Benzoxazol-2-yl)piperidin-4-amine hydrochloride | 1.1 g | Cl.O1C(=NC2=C1C=CC=C2)N2CCC(CC2)N | InChI=1S/C12H15N3O.ClH/c13-9-5-7-15(8-6-9)12-14-10-3-1-2-4-11(10)16-12;/h1-4,9H,5-8,13H2;1H
